US06727264B1
TERT-BUTYL N-(3-BROMOPROPYL)CARBAMATE:
Prepared from 3-bromopropylamine hydrobromide and BOC2O in the presence of base in dichloromethane, 9.89 mmol: 1H NMR (CDCl3) δ 5.07 (br, 1H), 3.31 (t, 2H, J=6.6 Hz), 3.12 (apparent br q, 2H, J=6.0 Hz), 1.92 (p, 2H, J=6.6 Hz), 1.30 (s, 9H).

reactant | 3-bromopropylamine hydrobromide | Br.BrCCCN
reactant | BOC2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | TERT-BUTYL N-(3-BROMOPROPYL)CARBAMATE | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
